US05780470
1-[(2-Furanyl)carbonyl]-4-(6-methoxy-indan-1-yl)piperazine
A solution of (-)-(6-methoxy-indan-1-yl)piperazine (28 mg, 0.12 mmol), 3-furoic acid (58 mg, 0.52 mmol), and 1-hydroxybenzotriazole (17 mg, 0.126 mmole), and 1,3-diisopropylcarbodiimide (16 mg, 0.126 mmol) in CH2 Cl2 (2 ml) and DMF (2 ml), was shaken for for 5 min and allowed to stand for 18 hr. The reaction mixture was filtered through an SCX Bondesil® (Varian # 1221-3039, 1 g) column. The column was washed with methanol (20 ml) and 0.1N NH4OH in methanol (2 ml). The product was then eluted from the column using 1N NH4OH in methanol (5 ml). This last fraction was concentrated in vacuo to give the product (36.8 mg, 94%, ES-MS: 327 (MH+).

reactant | (-)-(6-methoxy-indan-1-yl)piperazine | 0.12 mmol, 28 mg | COC1=CC=C2CCC(C2=C1)N1CCNCC1 | C14H20N2O
reactant | 3-furoic acid | 0.52 mmol, 58 mg | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | 1-hydroxybenzotriazole | 0.126 mmole, 17 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1,3-diisopropylcarbodiimide | 0.126 mmol, 16 mg | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | Cl2 | 2 ml | ClCl | Cl2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1-[(2-Furanyl)carbonyl]-4-(6-methoxy-indan-1-yl)piperazine | O1C(=CC=C1)C(=O)N1CCN(CC1)C1CCC2=CC=C(C=C12)OC | C19H22N2O3
